US07723384B2
a) 1-(5-Chloropentanoyl)-1,2,3,4-tetrahydro-5H-1-benzazepin-5-one
5-Chlorovaleryl chloride (18.61 mmol, 2.89 g) in dimethylformamide (20 ml) was added dropwise at 10° to a suspension of 1,2,3,4-tetrahydro-5H-1-benzazepin-5-one (12.41 mmol, 2.00 g, preparation according to J. Org. Chem 1972, 37, 2849) and potassium carbonate (14.89 mmol, 2.06 g) in dimethylformamide (40 ml). The reaction mixture was stirred first at 10° C. for 1 h and then under reflux for 3 h. The precipitated salts were filtered off and the filtrate was concentrated to dryness. CH2Cl2 was added to the oil obtained in this way and the mixture was washed three times with 50 ml each time of a 5% aqueous sodium hydrogencarbonate solution, neutralized with 0.1N HCl (20 ml) and then washed three times with a saturated sodium chloride solution. The organic phase was dried over Na2SO4 and concentrated under reduced pressure; yield 3.90 g (80% pure).

reactant | 5-Chlorovaleryl chloride | 18.61 mmol, 2.89 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | 1,2,3,4-tetrahydro-5H-1-benzazepin-5-one | 12.41 mmol, 2.00 g | N1CCCC(C2=C1C=CC=C2)=O | C10H11NO
reactant | potassium carbonate | 14.89 mmol, 2.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-(5-Chloropentanoyl)-1,2,3,4-tetrahydro-5H-1-benzazepin-5-one | ClCCCCC(=O)N1CCCC(C2=C1C=CC=C2)=O | C15H18ClNO2
